US05223518
Step d: 1-Phenyl-3-(3-pyridinyl)-2-propyne-1-one
Place pyridinium dichromate (1.75 g) and methylene chloride (20 mL) under argon atmosphere and cool to 0° C. Add α-[(3-pyridinyl)ethynyl]-benzenemethanol (663 mg, 3.2 mmol)). Stir overnight while slowly warming to room temperature. Dilute with ethyl ether and filter the chromium salts. Purify by silica gel chromatography (2:1 ethyl acetate/hexane) to yield the title compound.

reactant | pyridinium dichromate | 1.75 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
reactant | α-[(3-pyridinyl)ethynyl]-benzenemethanol | 3.2 mmol, 663 mg | N1=CC(=CC=C1)C#CC(O)C1=CC=CC=C1 | C14H11NO
solvent | ethyl ether | C(C)OCC | C4H10O
product | 1-Phenyl-3-(3-pyridinyl)-2-propyne-1-one | C1(=CC=CC=C1)C(C#CC=1C=NC=CC1)=O | C14H9NO
